US08106070B2
Palladium (II) acetate (5 mg, 0.02 mmol) was added to a degassed, ambient temperature solution of benzyl {2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}methylcarbamate (267 mg, 0.44 mmol), sodium tert-butoxide (170 mg, 1.76 mmol), 1-{[2-(trimethylsilyl)ethoxy]methyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-b]pyridine (224 mg, 0.88 mmol) and 2-(dicyclohexylphosphino)biphenyl (15 mg, 0.04 mmol) in 1,4-dioxane (5 mL). After stirring at 110° C. overnight, the reaction mixture was cooled, diluted with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-100% acetone/methylene chloride afforded 4-(2,2-dimethylbutyl)-N,N-dimethyl-2-{1-(methylamino)-2-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]ethyl}-1H-imidazole-1-sulfonamide.

reactant | benzyl {2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}methylcarbamate | 0.44 mmol, 267 mg | BrC1=CC=C(C=C1)CC(C=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C)N(C(OCC1=CC=CC=C1)=O)C | C28H37BrN4O4S
reactant | sodium tert-butoxide | 1.76 mmol, 170 mg | CC(C)([O-])C.[Na+]
reactant | 1-{[2-(trimethylsilyl)ethoxy]methyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-b]pyridine | 0.88 mmol, 224 mg | C[Si](CCOCN1N=CC2=C1NCCC2)(C)C | C12H23N3OSi
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.04 mmol, 15 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Palladium (II) acetate | 0.02 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(2,2-dimethylbutyl)-N,N-dimethyl-2-{1-(methylamino)-2-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]ethyl}-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)N1C2=C(CCC1)C=NN2COCC[Si](C)(C)C)NC)(CC)C | C32H53N7O3SSi
